data/pmechdb/original/mc_train_fold0/raw/train.txt
CC[CH+:20]OC1=CC=CC=C1.C=CCO[C:13]1=[CH:12][CH:11]=[CH:10]C=C1>>CC[CH:20]([CH:10]1C=C[C+:13]([CH:12]=[CH:11]1)OCC=C)OC2=CC=CC=C2 10,11=10,20;12,13=11,12
CCCCC[CH:20]([OH2+:21])[O:10]C.[Cl-]>>CCCCC[CH:20]=[O+:10]C.[OH2:21].[Cl-] 10=20;20,21=21
[H:20][NH+:21](CC)CC.CCN(CC)C(C)(C)[OH:10]>>[H:20][OH+:10]C(C)(C)N(CC)CC.CC[NH:21]CC 10=20;20,21=21
CC1=C(C=C2C3CCC(C([C:20]3=[N+:21]4CCCC4)(CC2=C1)C)O)OC.[OH2:10].[Cl-]>>CC1=C(C=C2C3CCC(C([C:20]3([N:21]4CCCC4)[OH2+:10])(CC2=C1)C)O)OC.[Cl-] 10=20;20,21=21
[H:20][NH2+:21]C1=NC2=C(C=CC=C2)C(=C1NC(=O)COCC)NCC(C)(C)O.[NH3:10].[Cl-]>>[H:20][NH3+:10].CCOCC(=O)NC1=C(C2=C(C=CC=C2)N=C1[NH2:21])NCC(C)(C)O.[Cl-] 10=20;20,21=21
[H:20][C:21]1(C2=C(C=CC=C2)C=C[C+:22]1Br)Br.[Br-:10]>>[H:20][Br:10].C1=CC2=C(C=C1)[C:21](=[C:22](C=C2)Br)Br 10=20;20,21=21,22
[H:20][C:21](CCCCBr)(C(=O)OCC)[C:22](=[O:23])OCC.[OH-:10]>>[H:20][OH:10].CCO[C:22](=[C:21](CCCCBr)C(=O)OCC)[O-:23] 10=20;22,23=23;20,21=21,22
[H:20][N:21]1C=NN=N1.C[N:10](C)P(N1C=NN=N1)(OC)OC>>[H:20][N+:10](C)(C)P(N1C=NN=N1)(OC)OC.C1=NN=N[N-:21]1 10=20;20,21=21
CC1CC2C34CCC[N+:20]5([C:10]3(CCC5)[C:11](O2)(CC4C1O)[O-:12])[O:21]C(=O)C(F)(F)F.C(=O)(C(F)(F)F)O>>CC1CC2C3(CCC[N+:20]4=[C:10]3CCC4)C(C1O)C[C:11](=[O:12])O2.C(=O)(C(F)(F)F)[O-:21].C(=O)(C(F)(F)F)O 10,11=10,20;20,21=21;12=11
[H:20][C:21]1([CH:22]=[CH:23][C+:24](C2=CC=CC=C21)OC)C(C)C.[F-:10]>>[H:20][F:10].CC(C)[C:21]1=[CH:22][CH:23]=[C:24](C2=CC=CC=C21)OC 10=20;20,21=21,22;22,23=23,24
CC[Si:20](CC)(CC)[O+]=C1CCCC2C13CC4CCCC4C3C(C2)OC.C[O:10][Sn-](Cl)(Cl)(Cl)Cl>>CC[Si-:20](CC)(CC)([O+]=C1CCCC2C13CC4CCCC4C3C(C2)OC)[O+:10](C)[Sn-](Cl)(Cl)(Cl)Cl 10=20,
C[C:11]1=[CH:10][NH:14][C:13](=[C:12]1CCC(=O)OC)C.CO[CH:20]=[O+:21]C.CO.C(=O)(C(F)(F)F)[O-]>>C[C:11]1=[C:12]([C:13](=[NH+:14][CH:10]1[CH:20](OC)[O:21]C)C)CCC(=O)OC.CO.C(=O)(C(F)(F)F)[O-] 10,11=10,20;20,21=21;12,13=11,12;14=13
CC[Si]1(C(C(CC(O1)C2=CC=CC=C2)O[Si](C)(C)C)[CH+]C[Si:20](C)(C)C)CC.C(F)(F)(F)S(=O)(=O)[O-:10]>>CC[Si]1(C(C(CC(O1)C2=CC=CC=C2)O[Si](C)(C)C)[CH+]C[Si-:20](C)(C)(C)[O:10]S(=O)(=O)C(F)(F)F)CC 10=20,
C[C:11](=[CH2:10])[O-:12].[CH2:20]=[O:21]>>C[C:11](=[O:12])[CH2:10][CH2:20][O-:21] 10,11=10,20;20,21=21;12=11
CC(CC[C:20]([OH2+:21])([OH:10])OC)C1CCC2C1(CCC3C2C(CC4C3(CCC(C4)O)C)O)C.CC1=CC=C(C=C1)S(=O)(=O)[O-].CO>>CC(CC[C:20](=[OH+:10])OC)C1CCC2C1(CCC3C2C(CC4C3(CCC(C4)O)C)O)C.[OH2:21].CC1=CC=C(C=C1)S(=O)(=O)[O-].CO 10=20;20,21=21
C[NH+:11](C)[Si-:10](C)(C)(C)Cl>>C[NH:11]C.C[Si:10](C)(C)Cl 10,11=11
C1=C(C=C([C:11](=[CH:10]1)O)Br)Br.[Br:20][Br:21]>>C1=C(C=C([C+:11]([CH:10]1[Br:20])O)Br)Br.[Br-:21] 10,11=10,20;20,21=21
[H:20][CH:21](C)[CH2:22][O:23]P(=O)(Cl)Cl.C1=CC=[N:10]C=C1>>[H:20][N+:10]1=CC=CC=C1.C[CH:21]=[CH2:22].[O-:23]P(=O)(Cl)Cl 10=20;22,23=23;20,21=21,22
CCCC[CH:20](C(C(=O)[O-:10])OC1=CC=CC=C1)[O:21][P+:22](C2=CC=CC=C2)(C3=CC=CC=C3)C4=CC=CC=C4.CCOC(=O)NNC(=O)OCC>>CCCC[CH:20]1C(C(=O)[O:10]1)OC2=CC=CC=C2.C1=CC=C(C=C1)[P:22](=[O:21])(C2=CC=CC=C2)C3=CC=CC=C3.CCOC(=O)NNC(=O)OCC 10=20;20,21=21,22
CC1CCC(C(C1)C=CC(C)(C(C)C)[C:20](=[O:21])OP(=O)(OC2=CC=CC=C2)OC3=CC=CC=C3)C(C)C.[N-:10]=[N+]=[N-]>>CC1CCC(C(C1)C=CC(C)(C(C)C)[C:20]([N:10]=[N+]=[N-])([O-:21])OP(=O)(OC2=CC=CC=C2)OC3=CC=CC=C3)C(C)C 10=20;20,21=21
CCOC(=O)C([C:20](=[O:21])C)C(=C(C)[NH2:10])C(=O)OCC.CO.N.O>>CCOC(=O)C1C(=C([NH2+:10][C:20]1(C)[O-:21])C)C(=O)OCC.CO.N.O 10=20;20,21=21
C[C:20](=[O:21])CC[C:11](=[CH2:10])[O-:12]>>C[C:20]1(CC[C:11](=[O:12])[CH2:10]1)[O-:21] 10,11=10,20;20,21=21;12=11
CC[O:21][C:20](C)([O-:10])O[Na].[OH2+][Na]>>CC[O-:21].C[C:20](=[O:10])O[Na].[OH2+][Na] 10=20;20,21=21
CCC[NH:10]CCC.[CH3:20][I:21]>>CCC[NH+:10]([CH3:20])CCC.[I-:21] 10=20;20,21=21
CC(=O)C1=CC(=C(C=C1)N2CC[NH:10]CC2)F.C1=C(C=C(C(=C1)F)[C:20](=[O:21])Cl)[N+](=O)[O-].CCN(CC)CC.C1COCCO1>>CC(=O)C1=CC(=C(C=C1)N2CC[NH+:10](CC2)[C:20](C3=CC(=CC=C3F)[N+](=O)[O-])([O-:21])Cl)F.CCN(CC)CC.C1COCCO1 10=20;20,21=21
[Li:10][O+:11](C)C1=CC=CC=C1>>[Li+:10].C[O:11]C1=CC=CC=C1 10,11=11
[H:20][Br:21].C1CC([C:11](=[CH:10]1)C2=CC=CC=C2)(C3=CC=CC=C3)C4=CC=CC=C4>>[H:20][CH:10]1CCC([C+:11]1C2=CC=CC=C2)(C3=CC=CC=C3)C4=CC=CC=C4.[Br-:21] 10,11=10,20;20,21=21
CCCCCC(CC(C)C)O[Al-:10]([OH+:11]C(C)C)(OC(C)C)OC(C)C.CC(C)[O-]>>CCCCCC(CC(C)C)O[Al:10](OC(C)C)OC(C)C.CC(C)[OH:11].CC(C)[O-] 10,11=11
CCC1CCCC([CH:20]1[Cl:21])C.[OH-:10]>>CCC1CCCC([CH:20]1[OH:10])C.[Cl-:21] 10=20;20,21=21
CC[OH:10].[CH2+:20]C=CC1=CC=CC=C1>>CC[OH+:10][CH2:20]C=CC1=CC=CC=C1 10=20,
[H:20][OH2+:21].C([CH:10]=[CH:11][O-:12])C#N>>[H:20][CH:10](CC#N)[CH:11]=[O:12].[OH2:21] 10,11=10,20;20,21=21;12=11
CCOCC1C(C[CH:20]([O:10]1)[N+:21]2=CC(=CC=C2)C)O>>CCOCC1C(C[CH:20]=[O+:10]1)O.CC1=CC=C[N:21]=C1 10=20;20,21=21
[H:20][NH+:21](COC)C(CC1=CC=C(C=C1)O)C(=O)O.[OH2:10].CO.[Cl-]>>[H:20][OH2+:10].COC[NH:21]C(CC1=CC=C(C=C1)O)C(=O)O.CO.[Cl-] 10=20;20,21=21
CC[NH2:10].C[C:20](=[O:21])OC(=NC1CCCCC1)NC2CCCCC2>>CC[NH2+:10][C:20](C)([O-:21])OC(=NC1CCCCC1)NC2CCCCC2 10=20;20,21=21
[H:20][S+:21](CC)CC=CO.OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.CC[S:21]CC=CO 10=20;20,21=21
